US06706725B1
a) 2-Ethyl-2-2-thienyl-[1,3]dioxolane
30 g (214.3 mmol) of 1-2-thienyl-1-propanone are dissolved in 120 mL of ethylene glycol. 93 g (856 mmol) of trimethylsilyl chloride are then added. The reaction medium is stirred at room temperature for 24 hours. After treatment with water, the medium is extracted with ethyl acetate and the organic phases are then combined, dried and concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica (eluent: 90 heptane/10 ethyl acetate). A yellow oil is obtained (m=15 g; Y=38%).

reactant | 1-2-thienyl-1-propanone | 214.3 mmol, 30 g | S1C(=CC=C1)C(CC)=O | C7H8OS
reactant | trimethylsilyl chloride | 856 mmol, 93 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethylene glycol | 120 mL | C(CO)O | C2H6O2
product | 2-Ethyl-2-2-thienyl-[1,3]dioxolane | C(C)C1(OCCO1)C=1SC=CC1 | C9H12O2S
